US04290960
(c) Preparation of 2,5-dimethyl-4-hydroxy-tetrahydrofuran-3-one (IV)
A vertical tubular reactor of 2 cm internal diameter, at the top of which 28 g of silver crystals (8 g of particles with diameters from 0.75 to 1 mm, 14 g of particles with diameters of from 0.4 to 0.75 mm and 6 g of particles with diameters of from 0.2 to 0.4 mm) were arranged, as a 2 cm thick bed, above a silver gauze screen, was fed, per hour, with a gaseous mixture, at 175° C., of 18.7 liters of 2,5-dimethyl-3,4-dihydroxy-tetrahydrofuran (=110 g), 72 liters of air and 100 liters of nitrogen. The catalyst temperature was 535° C. and the residence time over the catalyst about 0.04 second. After having passed over the catalyst, the gas mixture was immediately cooled to 20° C. by passing it into water. The resulting solution was brought to pH 8 with 10% strength NaOH solution. The water was then stripped off at 20 mbar and the residue was distilled at 1.3 mbar. This gave, at 61°-66° C., 35 g of a distillate containing about 80% of 2,5-dimethyl-4-hydroxy-tetrahydrofuran-3-one, and, at 109°-120° C., 60 g of unconverted 2,5-dimethyl-3,4-dihydroxy-tetrahydrofuran. The conversion was about 45% and the yield, based thereon, about 70%.

reactant | 2,5-dimethyl-3,4-dihydroxy-tetrahydrofuran | 18.7 liters, 110 g | CC1OC(C(C1O)O)C | C6H12O3
reactant | NaOH | [OH-].[Na+]
catalyst | silver | 28 g | [Ag] | Ag
solvent | water | O | H2O
product | 2,5-dimethyl-4-hydroxy-tetrahydrofuran-3-one | CC1OC(C(C1=O)O)C | C6H10O3
